US09447033B2
i) 3-Benzylamino-benzoic acid
A solution of 3-benzylamino-benzoic acid tert-butyl ester (1 g, 3 mmol) in trifluoroacetic acid/dichloromethane (1:5 v/v) (100 ml) was stirred for 16 hrs. The reaction was concentrated to dryness in vacuo to afford the title compound as a white solid. HPLC retention time 2.59 min. Mass spectrum (ES+) m/z 227.8 (M+).

reactant | 3-benzylamino-benzoic acid tert-butyl ester | 3 mmol, 1 g | C(C)(C)(C)OC(C1=CC(=CC=C1)NCC1=CC=CC=C1)=O | C18H21NO2
solvent | trifluoroacetic acid dichloromethane | 100 ml | FC(C(=O)O)(F)F.ClCCl
product | 3-Benzylamino-benzoic acid | C(C1=CC=CC=C1)NC=1C=C(C(=O)O)C=CC1 | C14H13NO2
